US07576165B2
Synthesis of 5-(pent-4-enylthio)-1H-1,2,3-triazole
5-bromopent-1-ene (10 mmol) and NaI were dissolved in 30 ml MeOH and stirred at room temperature for 12 h. 10 mmol 5-mercapto-1H-1,2,3-triazole (sodium salt) was added to above solution and further stirred for 24 hours. After the solvent MeOH was evaporated in vacuum, a mixture of hexane and ethyl acetate (1/1 in volume) 100 ml was added and stirred for 5 minutes. The precipitate was removed by filtration. The solvent in the filtrate was removed in vacuum. The residual was separated with a Si gel column (solvents: 1 ethyl acetate/1 hexane in volume). 0.8 g product was obtained as colorless oil. Yield: 47%. 1H NMR (CDCl3): 11.14 (1H, brs.), 7.69 (1H, s), 5.77 (1H, m), 5.03 (2H, m), 2.95 (2H, t), 2.17 (2H, m), 1.74 (2H, m).

reactant | 5-bromopent-1-ene | 10 mmol | BrCCCC=C | C5H9Br
reactant | NaI | [Na+].[I-]
reactant | 5-mercapto-1H-1,2,3-triazole | 10 mmol | SC1=CN=NN1 | C2H3N3S
solvent | MeOH | 30 ml | CO | CH4O
product | 5-(pent-4-enylthio)-1H-1,2,3-triazole | 0.8 g, Yield: 47% | C(CCC=C)SC1=CN=NN1 | C7H11N3S
